US05061712
3-(3,5-Difluorobenzylidene-amino)-pyrrolidine
1.72 g (20 mmol) of 3-amino-pyrrolidine are initially introduced into 20 ml of methanol, and 2.84 g (20 mmol) of 3,5-difluorobenzaldehyde are added dropwise at 20° C., while cooling in a water bath. The mixture is subsequently stirred at room temperature for one hour and is concentrated in vacuo on a rotary evaporator, and the residue (4.5 g) is distilled. 0.9 g of an oil, boiling point: 80° C.-85° C./0.04 mbar, are obtained, which decomposes to give a highly viscous mass within 4 weeks when stored at room temperature.

reactant | 3-amino-pyrrolidine | 20 mmol, 1.72 g | NC1CNCC1 | C4H10N2
reactant | 3,5-difluorobenzaldehyde | 20 mmol, 2.84 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
solvent | methanol | 20 ml | CO | CH4O
product | 3-(3,5-Difluorobenzylidene-amino)-pyrrolidine | 0.9 g | FC=1C=C(C=NC2CNCC2)C=C(C1)F | C11H12F2N2
